US04144228
A solution of 6.1 parts glycyl-L-phenylalanine benzyl ester hydrochloride, 7.0 parts N-t-butoxycarbonylglycine 2,4,5-trichlorophenyl ester and 1.8 parts N-methylmorpholine in 150 parts methylene chloride is stirred overnight at room temperature. The solvents are then removed by evaporation under reduced pressure to yield the crude tripeptide. Purification by low pressure column chromatography affords pure N-t-butoxycarbonylglycylglycyl-L-phenylalanine benzyl ester.

reactant | glycyl-L-phenylalanine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@@H](NC(CN)=O)CC1=CC=CC=C1)=O
reactant | N-t-butoxycarbonylglycine 2,4,5-trichlorophenyl ester | ClC1=C(C=C(C(=C1)Cl)Cl)OC(CNC(=O)OC(C)(C)C)=O | C13H14Cl3NO4
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-t-butoxycarbonylglycylglycyl-L-phenylalanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(CNC(CNC(=O)OC(C)(C)C)=O)=O)CC1=CC=CC=C1)=O | C25H31N3O6
